US04988827
A. Synthesis of 3-formamido-3-methyl-1-butanol
3-Amino-3-methyl-1-butanol (20.60 g, 0.20 mol) was added to ethyl formate (29.60 g, 0.40 mol), and the resulting clear solution was heated to reflux under nitrogen for 2 hours, and then allowed to cool to room temperature. The ethyl formate and ethanol by-product were removed by rotary evaporation (35° C., 25 Torr). The resulting oil was dried under vacuum (25° C., 0.1 Torr) to yield 25.86 g (99%).

reactant | 3-Amino-3-methyl-1-butanol | 0.20 mol, 20.60 g | NC(CCO)(C)C | C5H13NO
reactant | ethyl formate | 0.40 mol, 29.60 g | C(=O)OCC | C3H6O2
product | 3-formamido-3-methyl-1-butanol | C(=O)NC(CCO)(C)C | C6H13NO2
